US07109200B2
1-{[1-(Tert-butoxycarbonyl-4-ethoxycarbonylamino-4-piperidinyl]methyl}-4-(4-vinylbenzenesulfonyl)-2-piperazinone
Triethylamine (735 mg) was added to a solution of 1-{[1-(tert-butoxycarbonyl)-4-ethoxycarbonylamino-4-piperidinyl]methyl}-2-piperazinone (1.4 g) in dichloromethane (80 ml), and 4-vinylbenzenesulfonyl chloride (885 mg) was added at 0° C., and the mixture was stirred at room temperature for 1 hour. An aqueous sodium carbonate solution was added to the reaction solution, and the mixture was extracted with dichloromethane, dried, concentrated, and purified by silica gel column chromatography (hexane:ethyl acetate=1:2) to obtain the colorless amorphous title compound (1.50 g).

reactant | Triethylamine | 735 mg | C(C)N(CC)CC | C6H15N
reactant | 1-{[1-(tert-butoxycarbonyl)-4-ethoxycarbonylamino-4-piperidinyl]methyl}-2-piperazinone | 1.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(NC(=O)OCC)CN1C(CNCC1)=O | C18H32N4O5
reactant | 4-vinylbenzenesulfonyl chloride | 885 mg | C(=C)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | [1-(Tert-butoxycarbonyl-4-ethoxycarbonylamino-4-piperidinyl]methyl}-4-(4-vinylbenzenesulfonyl)-2-piperazinone | 1.50 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(NC(=O)OCC)CN1C(CN(CC1)S(=O)(=O)C1=CC=C(C=C1)C=C)=O | C26H38N4O7S
